LPFILTER.CIR - SIMPLE RC LOW-PASS FILTER
*Trasient (Time)
*DC offset of 0 V, a peak amplitude of 0.2 V and a frequency of 40 kHz
VS	1	0	AC	1	SIN(0	1	40KHZ)
*
R1	1	2	1K
C1	2	0	0.032UF
*
* ANALYSIS (AC(Frequency) Analysis)
*Analyses like DC, Sensitivity, Noise and Distortion.
*AC Analysis at 5 points per DECade in the frequency range from 10 Hz to 10 MHz
.AC 	DEC 	50 10 10MEG
* for a duration of 0.2 ms and prints out the results at 0.001 mS intervals.
*.TRAN 	1ms
* VIEW RESULTS
*.PLOT	AC	VM(2) VP(2)
*.PLOT	TRAN	AVG(V(1))
*.PLOT	TRAN	V(1)	V(2)
*.PRINT TRAN V(1) V(2)
* [ltz] removed: .PROBE
.END
